US08067448B2
N-(4-(5-((1R,2S)-2-(tert-butyldimethylsilyloxy)-1-(4-chloro-5-cyano-2-methylphenylamino)propyl)-1,3,4-oxadiazol-2-yl)phenyl)benzamide
To a pre-cooled (0° C.) solution of 5-((1R,2S)-1-(5-(4-aminophenyl)-1,3,4-oxadiazol-2-yl)-2-(tert-butyldimethylsilyloxy)propylamino)-2-chloro-4-methylbenzonitrile (290 mg, 0.58 mmol) in CH2Cl2 (10.0 mL) and pyridine (1.2 mL) was added, portion wise, acetyl chloride (0.34 mL, 2.9 mmol). Upon complete addition the reaction mixture was warmed slowly to room temperature and stirred for 23 h. The reaction mixture was then cooled to 0° C. and quenched with 10% aq HCl (5 mL) then H2O (15 mL) was added. The solution was extracted with CH2Cl2 (2×40 mL). The combined organic extracts were dried (Na2SO4), filtered and concentrated under reduced pressure to provide an orange oil, which was used without further purification (400 mg). 1H NMR (400 MHz, d6-acetone, δ in ppm) 8.36 (d, J=8.4 Hz, 2H), 8.27 (br s, 1H), 8.16 (d, J=8.6 Hz, 2H), 8.08 (d, J=8.2 Hz, 1H), 8.02 (d, J=8.6 Hz, 2H), 7.94-7.83 (m, 3H), 7.53 (d, J=8.2 Hz, 1H), 5.57 (d, J=8.9 Hz, 1H), 4.99 (dd, J=1.8, 8.9 Hz, 1H), 4.76-4.68 (m, 1H), 2.58 (s, 3H), 1.61 (d, J=6.3 Hz, 3H), 1.09 (s, 9H), 0.26 (s, 3H), 0.01 (s, 3H).

reactant | 5-((1R,2S)-1-(5-(4-aminophenyl)-1,3,4-oxadiazol-2-yl)-2-(tert-butyldimethylsilyloxy)propylamino)-2-chloro-4-methylbenzonitrile | 0.58 mmol, 290 mg | NC1=CC=C(C=C1)C1=NN=C(O1)[C@@H]([C@H](C)O[Si](C)(C)C(C)(C)C)NC=1C(=CC(=C(C#N)C1)Cl)C | C25H32ClN5O2Si
reactant | acetyl chloride | 2.9 mmol, 0.34 mL | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 10.0 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 1.2 mL | N1=CC=CC=C1 | C5H5N
product | N-(4-(5-((1R,2S)-2-(tert-butyldimethylsilyloxy)-1-(4-chloro-5-cyano-2-methylphenylamino)propyl)-1,3,4-oxadiazol-2-yl)phenyl)benzamide | [Si](C)(C)(C(C)(C)C)O[C@H]([C@@H](NC1=C(C=C(C(=C1)C#N)Cl)C)C1=NN=C(O1)C1=CC=C(C=C1)NC(C1=CC=CC=C1)=O)C | C32H36ClN5O3Si
